US05646188
To a solution of 20 g of a 1,3-indandione dioxime in 2 L of absolute ethanol was cautiously added 160 g of sodium in portions during 1 hr (at such a rate to maintain reflux). After disappearance of the sodium, 300 mL of water was slowly added and the solution concentrated in vacuo to remove most of the ethanol. The resulting solution was acidified with conc. hydrochloric acid to pH 1-2 followed by extraction with methylene chloride to recover unreacted started material. The aqueous layer was basified with 10% sodium hydroxide to pH 12 and extracted with methylene chloride which gave 11.7 grams of crude 1,3-diaminoindan upon solvent removal in vacuo. Purification of this material by flash column chromatography eluting with 95% ethanol/ammonium hydroxide (400:16) gave 8.75 g of the title compound as an approximately 60/40 mixture of cis to trans isomers.

reactant | 1,3-indandione dioxime | 20 g | C1(CC(C2=CC=CC=C12)=NO)=NO | C9H8N2O2
reactant | sodium | 160 g | [Na] | Na
reactant | water | 300 mL | O | H2O
solvent | ethanol | 2 L | C(C)O | C2H6O
product | 1,3-diaminoindan | 11.7 grams | NC1CC(C2=CC=CC=C12)N | C9H12N2
